US06897231B2
A. N-[3-(4-Fluorophenyl)(1H-indazol-5-yl)]benzamide
To a solution of 1-{[3-(4-fluorophenyl)-5-amino(1H-indazolyl)]methoxy}-2-methoxyethane (100 mg, 0.32 mmol) in pyridine (3 mL) was added benzoyl chloride (45 μL, 0.38 mmol). The solution was stirred for 12 hours when water (80 mL) was added and the solid filtered. The solid was then taken up in methanol (3 mL) and 6N HCl (3 mL) and heated to 80° C. for 3 hours. Water (80 mL) was then added and the solid filtered and dried to give the title compound (20 mg, 19% yield). 1H NMR (DMSO-d6) δ 13.3 (br s, 1H), 10.37 (s, 1H), 8.57 (s, 1H), 8.0-7.9 (m, 5H), 7.78 (d, 1H), 7.6-7.5 (m, 4H), 7.40 (t, 2H); ES-MS (m/z) 332 [M+1]+.

reactant | 1-{[3-(4-fluorophenyl)-5-amino(1H-indazolyl)]methoxy}-2-methoxyethane | 0.32 mmol, 100 mg | FC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)N)COCCOC | C17H18FN3O2
reactant | benzoyl chloride | 0.38 mmol, 45 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 80 mL | O | H2O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(4-Fluorophenyl)(1H-indazol-5-yl)]benzamide | 20 mg, 19% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NC(C1=CC=CC=C1)=O | C20H14FN3O
